US08466193B2
Methyl 1H-indole-6-carboxylate was alkylated with 3-(2-bromoethoxy)benzaldehyde as described in Example 5, Step 1 to provide methyl 1-(2-(3-formylphenoxy)ethyl)-1H-indole-6-carboxylate.

reactant | Methyl 1H-indole-6-carboxylate | N1C=CC2=CC=C(C=C12)C(=O)OC | C10H9NO2
reactant | 3-(2-bromoethoxy)benzaldehyde | BrCCOC=1C=C(C=O)C=CC1 | C9H9BrO2
product | methyl 1-(2-(3-formylphenoxy)ethyl)-1H-indole-6-carboxylate | C(=O)C=1C=C(OCCN2C=CC3=CC=C(C=C23)C(=O)OC)C=CC1 | C19H17NO4
